US08685418B2
To a stirred solution of 1-(cyclohexyl(methyl)amino)propan-2-yl 4-(tert-butyl)benzoate (22.5 g, 67.98 mmol) in DCE (150 ml) was added methyl bromide (25% solution in toluene, 103 ml, 271.90 mmol) and reaction mixture was stirred at rt for 16 h. TLC showed very small amount of unreacted starting material. Hence another 0.5 eq. of methyl bromide was added and stirred at rt for 8 h. The reaction mixture was concentrated and the crude material was purified by chromatography on neutral alumina eluting with 2-8% methanol-DCM to provide an off white solid. The solid material was crystallized from DCM-ether to provide [2-(4-tert-butyl-benzoyloxy)-propyl]-cyclohexyl-dimethyl-ammonium bromide. Yield: 15.5 g (53.5%). 1H NMR (DMSO-d6) δ 7.94 (d, J=8 Hz, 2 H), 7.57 (d, J=8 Hz, 2 H), 5.54-5.51 (m, 1 H), 3.93 (dd, J=15, 9 Hz, 1 H), 3.63 (d, J=14 Hz, 1 H), 3.42-3.36 (m, 1 H), 3.05 (s, 6 H), 2.23-2.20 (m, 1 H), 2.11-2.08 (m, 1 H), 1.87-1.83 (m, 2 H), 1.57-1.43 (m, 3 H), 1.36 (d, J=6 Hz, 3 H), 1.30 (s, 9 H), 1.23-1.08 (m, 3 H); LCMS: m/z=346.4 [M+], RT=3.00 min, (Column: Y, Program: P1). UPLC: 99.90% (200 nm), RT=4.04 min (Mobile Phase A. 0.05% TFA in water, B. Acetonitrile; Column: Zorbax® SB-C18 (4.6×50 mm) 1.8μ).

reactant | 1-(cyclohexyl(methyl)amino)propan-2-yl 4-(tert-butyl)benzoate | 67.98 mmol, 22.5 g | C(C)(C)(C)C1=CC=C(C(=O)OC(CN(C)C2CCCCC2)C)C=C1 | C21H33NO2
reactant | methyl bromide | 271.90 mmol, 103 ml | CBr | CH3Br
reactant | methyl bromide | 0.5 eq. | CBr | CH3Br
solvent | DCE | 150 ml | ClCCCl | C2H4Cl2
product | [2-(4-tert-butyl-benzoyloxy)-propyl]-cyclohexyl-dimethyl-ammonium bromide | [Br-].C(C)(C)(C)C1=CC=C(C(=O)OC(C[N+](C)(C)C2CCCCC2)C)C=C1 | InChI=1S/C22H36NO2.BrH/c1-17(16-23(5,6)20-10-8-7-9-11-20)25-21(24)18-12-14-19(15-13-18)22(2,3)4;/h12-15,17,20H,7-11,16H2,1-6H3;1H/q+1;/p-1
